US09315462B2
To a suspension of 3-chloro-4-(6-methoxyquinolin-2-yl)benzoic acid (150 mg, 0.479 mmol) in anhydrous CH2Cl2 (5 mL) was added AlCl3 (320 mg, 2.40 mmol). The reaction mixture was refluxed overnight. The mixture was quenched with saturated NH4Cl (10 mL) and the aqueous layer was extracted with CH2Cl2/MeOH (v/v=10:1, 30 mL×3). The combined organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated to give the crude product, which was purified by prep-HPLC (0.1% TFA as additive) to give 3-chloro-4-(6-hydroxyquinolin-2-yl)benzoic acid (25 mg, yield 18%). 1H NMR (DMSO, 400 MHz): δ 10.20 (brs, 1H), 8.30 (d, J=8.4 Hz, 1H), 8.10-8.00 (m, 2H), 7.95 (d, J=9.2 Hz, 1H), 7.80 (d, J=8.0 Hz, 1H), 7.72 (d, J=8.8 Hz, 1H), 7.38 (dd, J=6.4, 2.8 Hz, 1H), 7.22 (d, J=2.4 Hz, 1H), MS (ESI): m/z 299.9 [M+H]+.

reactant | 3-chloro-4-(6-methoxyquinolin-2-yl)benzoic acid | 0.479 mmol, 150 mg | ClC=1C=C(C(=O)O)C=CC1C1=NC2=CC=C(C=C2C=C1)OC | C17H12ClNO3
reactant | AlCl3 | 2.40 mmol, 320 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-(6-hydroxyquinolin-2-yl)benzoic acid | 25 mg, yield 18% | ClC=1C=C(C(=O)O)C=CC1C1=NC2=CC=C(C=C2C=C1)O | C16H10ClNO3
